US08071592B2
8-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-oxo-7,8-dihydro-1,8-naphthyridine-2-carbonitrile Hydrochloride
A solution of 1,1-dimethylethyl {1-[2-(7-cyano-2-oxo-1,8-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)carbamate (600 mg, 1.100 mmol) in DCM (10 ml) at 0° C. was added 1M HCl in diethyl ether (10 ml) and the reaction was stirred at 0° C. for 0.5 h and then allowed warm to rt and stirred at rt for 2 h before evaporation, treatment with sat. aq NaHCO3 (50 ml). The reaction was then extracted with 20% MeOH in DCM (3×200 ml). The combined organic phases were dried, evaporated and the crude residue purified by chromatography on silica gel using a 0-20% MeOH/DCM gradient to provide the free base of the title compound (314 mg, 64%).

reactant | 1,1-dimethylethyl {1-[2-(7-cyano-2-oxo-1,8-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)carbamate | 1.100 mmol, 600 mg | C(#N)C1=CC=C2C=CC(N(C2=N1)CCN1CCC(CC1)N(C(OC(C)(C)C)=O)CC1=CC2=C(C=N1)OCCO2)=O | C29H34N6O5
reactant | HCl | 1M | Cl | ClH
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 8-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-oxo-7,8-dihydro-1,8-naphthyridine-2-carbonitrile Hydrochloride | 314 mg, 64% | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC=1C=CC(=NC21)C#N)=O | InChI=1S/C24H26N6O3.ClH/c25-14-19-3-1-17-2-4-23(31)30(24(17)28-19)10-9-29-7-5-18(6-8-29)26-15-20-13-21-22(16-27-20)33-12-11-32-21;/h1-4,13,16,18,26H,5-12,15H2;1H
